US04831041
A mixture of 8-hydroxy-2-methyl-3-(2-propynyl)imidazo[ 1,2-a]pyridine (0.372 g) and potassium carbona (0.276 g) in N,N-dimethylformamide (7.4 ml) was stirred at room temperature for 20 minutes under a nitrogen atmosphere and then 2-methoxycarbonylamino-6-methylbenzylchloride (0.427 g) was added. After being stirred for 2 hours. The mixture was poured into water and the resulting precipitates were collected by filtration. The crude product was purified by column chromatography on silica gel (10 g) with chloroform as eluents to give 8-(2-methoxycarbonylamino-6-methylbenzyloxy)-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine (0.048 g).

reactant | 8-hydroxy-2-methyl-3-(2-propynyl)imidazo[ 1,2-a]pyridine | 0.372 g | OC=1C=2N(C=CC1)C(=C(N2)C)CC#C | C11H10N2O
reactant | potassium | [K] | K
reactant | 2-methoxycarbonylamino-6-methylbenzylchloride | 0.427 g | COC(=O)NC1=C(CCl)C(=CC=C1)C | C10H12ClNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 7.4 ml | CN(C=O)C | C3H7NO
product | 8-(2-methoxycarbonylamino-6-methylbenzyloxy)-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine | 0.048 g | COC(=O)NC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C(=CC=C1)C | C21H21N3O3
